US09326981B2
Two Layer Apomorphine Strip
Gelatin and mannitol are dispersed in purified water and mixed thoroughly (i.e., using a vacuum mixer) and homogenized. Apomorphine hydrochloride is added and the mixture was again homogenized to ensure complete dissolution of the apomorphine hydrochloride. The pH of the solution is adjusted to about 3.0 (i.e., by addition of a suitable acid, such as citric acid). The solution is then poured onto a sheet and dried in a heated oven.

reactant | mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | Apomorphine hydrochloride | CN1CCC=2C=CC=C3C2[C@H]1CC4=C3C(=C(C=C4)O)O.Cl
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | O | H2O
product | Apomorphine | CN1CCC=2C=CC=C3C2[C@H]1CC4=C3C(=C(C=C4)O)O | C17H17NO2
